US04001419
A mixture of 9,9-bis(2'-vinyloxyethyl)xanthene (57 g.) (prepared as in Example 2), water (400 ml.) and concentrated hydrochloric acid (15 ml.) is heated on the steambath with vigorous stirring for 5 hours. The cooled mixture is extracted three times with ether and the combined extracts are dried over MgSO4 and evaporated to dryness. The solid residue is recrystallised from chloroform-light petroleum (b.p. 60°-80° C.) to give 9,9-bis(2'-hydroxyethyl)xanthene, m.p. 144°-145° C. Methanesulphonyl chloride (588 mg.) is added dropwise over 5 minutes at 5° C. to a solution of 9,9-bis(2'-hydroxyethyl)xanthene (0.54 g.) in dry pyridine (5 ml.) with stirring. The mixture is allowed to stand at room temperature for 20 hours and is then poured into a mixture of 3N hydrocholoric acid (20 ml.) and ice (10 g.), and the resulting mixture is extracted with ethyl acetate. The ethyl acetate extract is washed with 3N hydrochloric acid and water, dried over MgSO4, and evaporated to dryness. The solid residue is recrystallised from acetone-light petroleum (b.p. 60°-80° C.) to give 9,9-bis(2'-methanesulphonyloxyethyl)-xanthene, m.p. 121°-122° C.

reactant | Methanesulphonyl chloride | 588 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | 9,9-bis(2'-hydroxyethyl)xanthene | 0.54 g | OCCC1(C2=CC=CC=C2OC=2C=CC=CC12)CCO | C17H18O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 9,9-bis(2'-methanesulphonyloxyethyl)-xanthene | CS(=O)(=O)OCCC1(C2=CC=CC=C2OC=2C=CC=CC12)CCOS(=O)(=O)C | C19H22O7S2
